US07601711B2
[5-(4-Cyclopentyl-piperazine-1-carbonyl)-1H-indol-2-yl]-(1,1-dioxo-thiomorpholin-4-yl)-methanone
The title compound was synthesized in analogy to example 1, from 5-(4-cyclopentyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid 1:1 hydrochloride, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (commercially available), thiomorpholine 1,1-dioxide (commercially available) and N,N-diisopropylethylamine in N,N-dimethylformamide to give the desired product as a light yellow solid (58%).

reactant | 5-(4-cyclopentyl-piperazine-1-carbonyl)-1H-indole-2-carboxylic acid | C1(CCCC1)N1CCN(CC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C19H23N3O3
reactant | hydrochloride | Cl | ClH
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | thiomorpholine 1,1-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [5-(4-Cyclopentyl-piperazine-1-carbonyl)-1H-indol-2-yl]-(1,1-dioxo-thiomorpholin-4-yl)-methanone | 58% | C1(CCCC1)N1CCN(CC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)N1CCS(CC1)(=O)=O | C23H30N4O4S
